US07358370B2
2-(2,3-Dihydroxy-propylamino)-4-(6,6-dimethyl-4-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-indazol-1-yl)-benzonitrile (1.7 g, 4 mmol, 1 eq), NaOH (806 mg, 20 mmol, 5 eq), and H2O2 (3 mL) were dissolved in EtOH-water (4:1) (40 mL). The mixture was microwaved at 120° C. for 15 min, then concentrated to dryness, and purified by flash chromatography, eluted by 10% MeOH in EtOAc to give pure 2-(2,3-Dihydroxy-propylamino)-4-(6,6-dimethyl-4-oxo-3-trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-benzamide (0.52 g, 29% yield). LCMS (m/z): M+H=441.

reactant | 2-(2,3-Dihydroxy-propylamino)-4-(6,6-dimethyl-4-oxo-3-trifluoromethyl-4,5,6,7-tetrahydro-indazol-1-yl)-benzonitrile | 4 mmol, 1.7 g, 1 eq | OC(CNC1=C(C#N)C=CC(=C1)N1N=C(C=2C(CC(CC12)(C)C)=O)C(F)(F)F)CO | C20H21F3N4O3
reactant | NaOH | 20 mmol, 806 mg, 5 eq | [OH-].[Na+]
reactant | H2O2 | 3 mL | OO | H2O2
solvent | EtOH water | 40 mL | CCO.O
product | 2-(2,3-Dihydroxy-propylamino)-4-(6,6-dimethyl-4-oxo-3-trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-benzamide | 0.52 g, 29% yield | OC(CNC1=C(C(=O)N)C=CC(=C1)N1N=C(C=2C(CC(CC12)(C)C)=O)C(F)(F)F)CO | C20H23F3N4O4
